US05462941
2.8 g of 2-(2-thenoyl)-3-(4,4-dimethyl-2-oxazoline-2-yl)thiophene was added to a solution of 30 ml of concentrated hydrochloric acid, 20 ml of water and 20 ml of dioxane, and the solution was stirred at 100° C. for 8 hours. After cooling the solution, an aqueous NaCl solution was added thereto. The resultant solution was extracted with chloroform and dried. After the solvent was distilled off, the residue was purified by silica gel chromatography to obtain 0.70 g of 2-(2-thenoyl)-3-thiophene carboxylic acid.

reactant | 2-(2-thenoyl)-3-(4,4-dimethyl-2-oxazoline-2-yl)thiophene | 2.8 g | C1(=CC=CS1)C(=O)C=1SC=CC1C=1OCC(N1)(C)C | C14H13NO2S2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
reactant | NaCl | [Na+].[Cl-]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(2-thenoyl)-3-thiophene carboxylic acid | 0.70 g | C1(=CC=CS1)C(=O)C=1SC=CC1C(=O)O | C10H6O3S2
